US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-n1trobenzylideneacetoacetic acid methyl ester and 75 mmols of β-aminocrotonic acid 3,4-dimethoxybenzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4-dimethoxybenzyl ester of melting point 129° C (from ethanol).

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid 3,4-dimethoxybenzyl ester | COC=1C=C(COC(=O)C=2C(C(=C(NC2C)C)C(=O)OC)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1OC | C25H26N2O8
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid 3,4-dimethoxybenzyl ester | 75 mmols, Yield: 75% | COC=1C=C(COC(\C=C(\C)/N)=O)C=CC1OC | C13H17NO4
